2135-12-09 11:27:00 Physician Attending Progress Note
Chief Complaint: admitted to MICU with bleeding from trach site.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2135-12-9**] 02:18 AM
 MIDLINE - START [**2135-12-9**] 04:22 AM
   placed at OSH
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea
   Flowsheet Data as of  [**2135-12-9**] 11:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 85 (69 - 91) bpm
   BP: 96/62(69) {96/62(69) - 147/81(99)} mmHg
   RR: 15 (14 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  125 mL
   PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,155 mL
   Urine:
   655 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                 -1,030 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 17 cmH2O
   Plateau: 16 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 98%
   ABG: ////
   Ve: 8.2 L/min
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: No(t) Paradoxical), (Percussion:
   Resonant : ), (Breath Sounds: Clear : , No(t) Crackles : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, b/l UE and LE weakness
   Labs / Radiology
   31.0 %
        [image002.jpg]
                             [**2135-12-9**]  05:01 AM
   Hct
   31.0
   Assessment and Plan
 HEMOPTYSIS
   Bronch + chest CT today. ENT following. No obvious source of upper
   airway bleed identified on ENT scope yesterday.
 RESPIRATORY FAILURE, CHRONIC
   Continue vent settings -  AC,  set Vt 400.
   ALS
   Restart home meds.
   Further plans as per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2135-12-9**] 04:22 AM
   18 Gauge - [**2135-12-9**] 04:24 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition :ICU
   Total time spent:  35 minutes, patient is critically ill

2135-12-10 08:24:00 Physician Resident Progress Note
Chief Complaint: ALS with bleeding trach site
   24 Hour Events:
 BRONCHOSCOPY - At [**2135-12-9**] 12:45 PM
   ENT silver nitrate cautery around trach site yesterday
   Downsized trach to size 7
   Continues to have blood secretions, but no new active bleeding
   overnight.
   Hypotension O/N with decreased in UOP. UOP responded to 1.5L NS, but
   patient remained with low pressures. Patient did have good radial/pedal
   pulses and had gotten several doses Fentanyl
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2135-12-10**] 12:45 AM
   Fentanyl - [**2135-12-10**] 01:30 AM
   Lorazepam (Ativan) - [**2135-12-10**] 03:00 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: No(t) Dyspnea
   Neurologic: No(t) Headache, no lightheadedness, dizziness
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2135-12-10**] 08:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 81 (81 - 121) bpm
   BP: 78/54(55) {69/49(53) - 157/93(110)} mmHg
   RR: 14 (14 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,200 mL
                                                                  1,643 mL
   PO:
             TF:
   IVF:
                                                                    840 mL
                                                                  1,583 mL
   Blood products:
   Total out:
                                                                  1,685 mL
                                                                    265 mL
   Urine:
                                                                  1,185 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -485 mL
                                                                  1,378 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (400 - 480) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Vent Dependant
   PIP: 21 cmH2O
   Plateau: 15 cmH2O
   Compliance: 47.5 cmH2O/mL
   SpO2: 99%
   ABG: ///29/
   Ve: 7 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, trach in place with dried
   blood
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : at bases)
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, situation, Movement: Purposeful,
   Tone: Decreased, flaccid paralysis, ableto motion with thumbs and use
   mouth, eyes
   Labs / Radiology
   287 K/uL
   10.3 g/dL
   81 mg/dL
   0.1 mg/dL
   29 mEq/L
   3.7 mEq/L
   19 mg/dL
   103 mEq/L
   141 mEq/L
   29.8 %
   12.9 K/uL
        [image002.jpg]
   N85, L7, M5, E2
                             [**2135-12-9**]  05:01 AM
                             [**2135-12-9**]  12:30 PM
                             [**2135-12-9**]  09:54 PM
                             [**2135-12-10**]  04:29 AM
   WBC
   9.8
   12.9
   Hct
   31.0
   31.5
   30.2
   29.8
   Plt
   270
   287
   Cr
   0.1
   Glucose
   81
   Other labs: PT / PTT / INR:15.1/31.0/1.3, Ca++:8.6 mg/dL, Mg++:2.0
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   HYPOTENSION: patient mentating well with good pulses. Concerned this is
   the effect of sedating/pain medication on patient - accumulating. WBC
   elevated today, likely due to manipulation of trach yesterday, cannot
   r/o infection. Will place smaller cuff on patient.
   - IVFs as needed and restart tube feeds
   - CXR
   - blood cultures
   - sputum cx
   - urine cx
   - stop fentanyl
   BLEEDING IN THROAT/UPPER AIRWAY
   Mr [**Known lastname 4118**] has had distressing bleeding which is evidently from his trach
   site and most likely associated with the attempt to resize the
   tracheostomy tube. The bleeding is problem[**Name (NI) 595**] for several reasons:
   first, the blood loss itself; second, the possibility that blood will
   increasingly fill areas of the lung; third, the extent to which it
   represents a process that endangers his trach tube. Bronchoscopy showed
   bleeding coming from around trach. ENT visualized site and used silver
   nitrate cautery, unable to visualize completely source of bleeding. HCT
   remains stable. Patient continues to have blood secretions, although no
   oral secretions
 he is likely still oozing, no large re-bleed
   - follow serial Hcts
   - monitor for signs of rebleed, if rebleeds needs to go to OR with ENT
   for exploration
   - monitor secretions
   ALS
   Stable on current vent settings. Appears to be comfortable on this.
   Would not make significant changes unless patient decompensates for
   some reason.
   -  continue home Rilutek
   - wife to bring in CoQ
   ANXIETY
   Takes seroquel at home which he and his wife agree helps him stay calm
   and breathe better.  Patient was started on fentanyl boluses for
   sedation.
   - continue Seroquel
   - hold fentanyl as above
   GOALS OF CARE
   Patient appears to have not entirely intentionally ended up on vent as
   the latter aspect of his ALS care. See below re decision to become DNR.
   He was quite firm on this.
   ICU Care
   Nutrition:
   Comments: start tube feeds, given stability of HCT
   Glycemic Control:
   Lines:
   Midline - [**2135-12-9**] 04:22 AM
   18 Gauge - [**2135-12-9**] 04:24 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2135-12-11 08:04:00 Physician Resident Progress Note
Chief Complaint: bleeding from trach tube site
   24 Hour Events:
   Yesterday AM, got benzo and pain medicine, later his pressures declined
   to 70s systolic; asymptomatic with good pulses; concerning for
   infection so was pan-cultured
   Bleeding has eased up
   Held sedation and BPs rose back up to baseline
   No cx results as yet
   Hct declining overall; ENT did not feel intervention nec for this; some
   of the Hct drop likely dilution in the setting of aggressive fluids
   Bolus of 500 cc for decreased Uo this AM; restarted tube feeds
   yesterday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2135-12-10**] 08:06 AM
   Midazolam (Versed) - [**2135-12-11**] 02:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-12-11**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.3
C (99.1
   HR: 89 (79 - 98) bpm
   BP: 114/60(74) {70/44(50) - 123/68(79)} mmHg
   RR: 15 (14 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  3,310 mL
                                                                    650 mL
   PO:
             TF:
                                                                    750 mL
   IVF:
                                                                  2,240 mL
                                                                    580 mL
   Blood products:
   Total out:
                                                                    685 mL
                                                                    168 mL
   Urine:
                                                                    685 mL
                                                                    168 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,625 mL
                                                                    482 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Vent Dependant
   PIP: 19 cmH2O
   Plateau: 18 cmH2O
   Compliance: 36.9 cmH2O/mL
   SpO2: 96%
   ABG: ///28/
   Ve: 6.9 L/min
   Physical Examination
   HEENT/NECK: Trach tube in place, continuing to have some oozing around
   this; no fresh blood in OP
   Cardiac: nl S1/S2, RRR, no m/r/g
   Lungs: CTAB on anterior exam on vent, settings as above
   Abd: soft, non-tender
   Peripheral Vascular: pulses present x4; WWP
   Skin:  no rashes/petichiae
   Neurologic: alert and oriented; flaccid paralysis at baseline
   Labs / Radiology
   237 K/uL
   8.4 g/dL
   106 mg/dL
   0.1 mg/dL
   28 mEq/L
   3.3 mEq/L
   18 mg/dL
   108 mEq/L
   142 mEq/L
   23.8 %
   13.0 K/uL
        [image002.jpg]
                             [**2135-12-9**]  05:01 AM
                             [**2135-12-9**]  12:30 PM
                             [**2135-12-9**]  09:54 PM
                             [**2135-12-10**]  04:29 AM
                             [**2135-12-10**]  06:43 PM
                             [**2135-12-11**]  12:14 AM
                             [**2135-12-11**]  04:33 AM
   WBC
   9.8
   12.9
   13.0
   Hct
   31.0
   31.5
   30.2
   29.8
   25.3
   25.9
   23.8
   Plt
   [**Telephone/Fax (3) 4143**]
   Cr
   0.1
   0.1
   Glucose
   81
   106
   Other labs: PT / PTT / INR:14.9/30.7/1.3, Differential-Neuts:85.2 %,
   Lymph:6.9 %, Mono:5.5 %, Eos:2.1 %, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.8 mg/dL
   Assessment and Plan
   BLEEDING:
   Continued bleeding this AM. Significant Hct drop as shown above, some
   likely assoc w hydration but can not all be ascribed to this. ENT will
   come this AM to re-examine. ? of CT scan value: discussed with
   radiology, who feel that likely to be low yield in terms of assessing
   bleed.
   - transfusing 2 U PRBCs
   - q4 Hct checks
   - ENT following, appreciate their involvement and recs
   - consider CT if continuing Hct drop, no new ENT findings
   RESPIRATORY FAILURE (CHRONIC)
   Continuing at his stable vent settings. Failure [**2-5**] ALS. However,
   having some leak around his trach tube. Continuing RT care for this;
   will discuss with ENT whether needs new tube or other strategy. For now
   not compromising his respiratory status. New x-ray appears to show LUL
   collapse and LLL atelectasis. ?New process/infection; no other signs of
   infection, likely [**2-5**] bleeding but need to follow closely.
          Appreciate ENT recs
          Low threshold for f/u CXR today vs new CT to eval
          Holding off on bronchoscopy for now; likely to be secondary
   to neck process rather than primary lung process, but if resp
   compromise may need this for removal of pooled blood/clot
   ALS
   Continue rilutek, coenzyme q10 (home med).
   ICU Care
   Nutrition: Bolus G-tube feedings
   Glycemic Control:  fine
   Lines:
   Midline - [**2135-12-9**] 04:22 AM
   18 Gauge - [**2135-12-9**] 04:24 AM
   Prophylaxis:
   DVT:  holding heparin; pneumoboots
   Stress ulcer:  PPI
   VAP:  HOB up, trach care
   Comments:
   Communication:  Comments: with patient, wife
   [**Name (NI) 36**] status: Do not resuscitate
   Disposition: ICU until bleeding resolves, for vent care ; then back to
   rehab when stable ; ICU for today

2135-12-12 08:01:00 Physician Resident Progress Note
Chief Complaint: bleeding associated with trach tube change
   24 Hour Events:
 BRONCHOSCOPY - At [**2135-12-11**] 10:38 AM
   ENT; cauterization of trach site & scope to visualize airways.
 URINE CULTURE - At [**2135-12-12**] 01:18 AM
   in f/u to dirty U/A; pulled foley and requsted condom cath to replace
   (pt's usual)
   son and brother-in-law visited
   got 2 U PRBCs
   complained of some
tightness
 and not being able to take a full
   breath; respiratory therapy with ambu-bag therapy and increasing tidal
   volumes helped him feel better
   ENT saw again early AM of [**2135-12-12**], saw no bleeding, note asks "?need of
   CT neck"
   Guiaic positive stool
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   History obtained from [**Hospital 15**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2135-12-11**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-12-12**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.9
C (98.5
   HR: 72 (71 - 99) bpm
   BP: 95/52(61) {78/47(55) - 127/70(80)} mmHg
   RR: 14 (14 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  3,260 mL
                                                                     79 mL
   PO:
             TF:
                                                                  1,000 mL
   IVF:
                                                                  1,240 mL
                                                                     79 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                    688 mL
                                                                     70 mL
   Urine:
                                                                    688 mL
                                                                     70 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,572 mL
                                                                      9 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (480 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Vent Dependant
   PIP: 22 cmH2O
   Plateau: 22 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 98%
   ABG: ///30/
   Ve: 9.6 L/min
   Physical Examination
   HEENT: PERRL, anicteric sclera
   Neck: Trach site intact, no active bleeding
   Peripheral Vascular: (Right radial pulse: +), (Left radial pulse: +),
   (Right DP pulse: +), (Left DP pulse: +)
   Skin:  No rashes or petichiae in limited exam
   Cardiac: RRR no m/r/g
   Lungs: Clear to auscultation bilaterally
   Abdomen: soft, NT, BS faint but +
   Neuro: engaged and oriented to situation; flaccid paralysis per
   baseline
   Labs / Radiology
   212 K/uL
   9.6 g/dL
   98 mg/dL
   0.1 mg/dL
   30 mEq/L
   3.3 mEq/L
   17 mg/dL
   108 mEq/L
   141 mEq/L
   27.4 %
   10.0 K/uL
        [image002.jpg]
                             [**2135-12-9**]  05:01 AM
                             [**2135-12-9**]  12:30 PM
                             [**2135-12-9**]  09:54 PM
                             [**2135-12-10**]  04:29 AM
                             [**2135-12-10**]  06:43 PM
                             [**2135-12-11**]  12:14 AM
                             [**2135-12-11**]  04:33 AM
                             [**2135-12-11**]  08:46 PM
                             [**2135-12-12**]  01:07 AM
                             [**2135-12-12**]  05:30 AM
   WBC
   9.8
   12.9
   13.0
   10.0
   Hct
   31.0
   31.5
   30.2
   29.8
   25.3
   25.9
   23.8
   29.5
   28.7
   27.4
   Plt
   [**Telephone/Fax (3) 4166**]12
   Cr
   0.1
   0.1
   0.1
   Glucose
   81
   106
   98
   Other labs: PT / PTT / INR:14.8/30.6/1.3, Differential-Neuts:85.2 %,
   Lymph:6.9 %, Mono:5.5 %, Eos:2.1 %, LDH:97 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   BLEEDING AT TRACHEOSTOMY SITE
   Appears to be controlled today without further significant bleeding.
   ENT not opting for further exploration or operation at this point.
   - touch base w ENT re value/lack thereof of CT neck
   - still holding DVT ppx; gets fragmin at rehab facility
   LEFT UPPER LOBE COLLAPSE
   Appears to be resolving by this AM
s chest x-ray. Follow.
   RESPIRATORY FAILURE
   Chronic, [**2-5**] ALS. Patient appears to appreciate larger tidal volumes
   than prior, going up on TV for comfort.
   URINARY TRACT INFECTION
   Large blood and bacteria and WBCs seen on UA. Pulled Foley and sending
   new UA and cultures. Use condom cath if possible. Follow up cultures.
   Consider antibiotic regimen for this if UA not clearing p Foley, follow
   speciation and sensitivities. Would like to avoid antibiotics that
   would put Mr [**Known lastname 4118**] at risk for C. diff, if possible, as this would be a
   disastrous outcome for him in terms of health and quality of life.
   DILATED LOOPS OF BOWEL
   Most likely [**2-5**] gas, which pt says he often has problems with.
   - simethicone, follow exam
   ICU Care
   Nutrition: bolus tube feeds; pt is declining some
   Glycemic Control:  fine
   Lines:
   Midline - [**2135-12-9**] 04:22 AM
   18 Gauge - [**2135-12-9**] 04:24 AM
   Prophylaxis:
   DVT:  Pneumoboots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication: Family meeting held  Comments: met briefly w wife and
   pt, updated
   Code status: DNR (do not resuscitate)
   Disposition: Here vs vent rehab

2135-12-12 08:55:00 Physician Attending Progress Note
Chief Complaint: Hemoptysis
   HPI: See previous notes, ICU day #3 for persistent bleeding from trach
   site.
   24 Hour Events:
   ENT; cauterization of trach site & scope to visualize airways.
   Transfused yesterday morning
   LUL atelectasis on CXR yesterday.
 URINE CULTURE - At [**2135-12-12**] 01:18 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-12-12**] 08:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.9
C (98.5
   HR: 68 (68 - 99) bpm
   BP: 85/51(60) {78/47(55) - 127/70(80)} mmHg
   RR: 14 (14 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  3,260 mL
                                                                     86 mL
   PO:
             TF:
                                                                  1,000 mL
   IVF:
                                                                  1,240 mL
                                                                     86 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                    688 mL
                                                                     70 mL
   Urine:
                                                                    688 mL
                                                                     70 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,572 mL
                                                                     16 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (480 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Vent Dependant
   PIP: 22 cmH2O
   Plateau: 22 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 99%
   ABG: ///30/
   Ve: 9.6 L/min
   Physical Examination
   Normal intensity breath sounds anteriorly
   RRR no m/r/g
   Abdomen soft, min distended
   Extrem warm.
   Labs / Radiology
   9.6 g/dL
   212 K/uL
   98 mg/dL
   0.1 mg/dL
   30 mEq/L
   3.3 mEq/L
   17 mg/dL
   108 mEq/L
   141 mEq/L
   27.4 %
   10.0 K/uL
        [image002.jpg]
                             [**2135-12-9**]  05:01 AM
                             [**2135-12-9**]  12:30 PM
                             [**2135-12-9**]  09:54 PM
                             [**2135-12-10**]  04:29 AM
                             [**2135-12-10**]  06:43 PM
                             [**2135-12-11**]  12:14 AM
                             [**2135-12-11**]  04:33 AM
                             [**2135-12-11**]  08:46 PM
                             [**2135-12-12**]  01:07 AM
                             [**2135-12-12**]  05:30 AM
   WBC
   9.8
   12.9
   13.0
   10.0
   Hct
   31.0
   31.5
   30.2
   29.8
   25.3
   25.9
   23.8
   29.5
   28.7
   27.4
   Plt
   [**Telephone/Fax (3) 4166**]12
   Cr
   0.1
   0.1
   0.1
   Glucose
   81
   106
   98
   Other labs: PT / PTT / INR:14.8/30.6/1.3, Differential-Neuts:85.2 %,
   Lymph:6.9 %, Mono:5.5 %, Eos:2.1 %, LDH:97 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   65 y/o man with ALS a/w bleeding from trachesostomy
   Bleeding - no recurrent bleeding since cautery yesterday. Trend Hct,
   monitor for bleeding.
   Respiratory Failure - [**2-5**] ALS. Currently #7 trach, plan to leave this
   in place. Can increase Vt for air hunger.
   ?UTI - f/u urine culture
   Abdominal Distension -
   ICU Care
   Nutrition:
   Comments: Jevity bolus feeds
   Glycemic Control:
   Lines:
   Midline - [**2135-12-9**] 04:22 AM
   18 Gauge - [**2135-12-9**] 04:24 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill due to respiratory failure

2135-12-13 07:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: tracheostomy bleed
   24 Hour Events:
   low UOP bolus 1L NS with UOP 150 ml.
   Pending urine culture
   High stool output
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: gas
   Flowsheet Data as of  [**2135-12-13**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.5
C (97.7
   HR: 74 (68 - 97) bpm
   BP: 102/60(70) {85/50(58) - 143/86(99)} mmHg
   RR: 14 (14 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  2,290 mL
                                                                  1,328 mL
   PO:
             TF:
                                                                  1,250 mL
                                                                    250 mL
   IVF:
                                                                    240 mL
                                                                  1,078 mL
   Blood products:
   Total out:
                                                                    245 mL
                                                                    150 mL
   Urine:
                                                                    245 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,045 mL
                                                                  1,178 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Vent Dependant
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   SpO2: 99%
   ABG: ///28/
   Ve: 7.4 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand, flaccid legs, arms
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, situation, Movement: Not
   assessed, Tone: Decreased
   Labs / Radiology
   207 K/uL
   9.4 g/dL
   91 mg/dL
   0.1 mg/dL
   28 mEq/L
   3.6 mEq/L
   17 mg/dL
   109 mEq/L
   143 mEq/L
   26.8 %
   9.1 K/uL
        [image002.jpg]
                             [**2135-12-9**]  09:54 PM
                             [**2135-12-10**]  04:29 AM
                             [**2135-12-10**]  06:43 PM
                             [**2135-12-11**]  12:14 AM
                             [**2135-12-11**]  04:33 AM
                             [**2135-12-11**]  08:46 PM
                             [**2135-12-12**]  01:07 AM
                             [**2135-12-12**]  05:30 AM
                             [**2135-12-12**]  05:04 PM
                             [**2135-12-13**]  04:42 AM
   WBC
   12.9
   13.0
   10.0
   9.1
   Hct
   30.2
   29.8
   25.3
   25.9
   23.8
   29.5
   28.7
   27.4
   29.7
   26.8
   Plt
   287
   237
   212
   207
   Cr
   0.1
   0.1
   0.1
   0.1
   Glucose
   81
   106
   98
   91
   Other labs: PT / PTT / INR:14.8/30.6/1.3, Differential-Neuts:85.2 %,
   Lymph:6.9 %, Mono:5.5 %, Eos:2.1 %, LDH:97 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   Advanced ALS now ventilator dependent.
   BLEEDING AT TRACHEOSTOMY SITE
   Appears to be controlled today without further significant bleeding.
   ENT not opting for further exploration or operation at this point.
   - still holding DVT ppx; gets fragmin at rehab facility
   LEFT UPPER LOBE COLLAPSE: resolved
   RESPIRATORY FAILURE
   Chronic, [**2-5**] ALS. Patient appears to appreciate larger tidal volumes
   than prior, going up on TV for comfort.
   DIRTY URINALYSIS
   Large blood and bacteria and WBCs seen on UA. Pulled Foley and sent new
   UA and cultures. Use condom cath if possible. Follow up cultures. Would
   like to avoid antibiotics that would put Mr [**Known lastname 4118**] at risk for C. diff,
   if possible, as this would be a disastrous outcome for him in terms of
   health and quality of life.
   - Follow up urine culture
   DILATED LOOPS OF BOWEL
   Most likely [**2-5**] gas, which pt says he often has problems with. Worse
   with tube feed formulation here
   - simethicone, follow exam
   TRANSFER TO REHAB
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:  no insulin
   Lines:
   Midline - [**2135-12-9**] 04:22 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Communication:  wife, patient
   [**Name2 (NI) 36**] status: DNR (do not resuscitate)
   Disposition:Transfer to rehab / long term care facility

2135-12-13 09:06:00 Physician Attending Progress Note
Chief Complaint: Hemoptysis
   HPI:
   Hx ALS, s/p traceostomy with recent upsize to #8 from #7, in the MICU
   with bleeding from trach site. S/P cautery by ENT x 2 with no bleeding
   for last 24 hrs.
   24 Hour Events:
   Increased stools with new tube feed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-12-13**] 09:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.4
   HR: 75 (68 - 97) bpm
   BP: 103/57(68) {85/50(58) - 143/86(99)} mmHg
   RR: 15 (14 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  2,290 mL
                                                                  1,339 mL
   PO:
             TF:
                                                                  1,250 mL
                                                                    250 mL
   IVF:
                                                                    240 mL
                                                                  1,089 mL
   Blood products:
   Total out:
                                                                    245 mL
                                                                    150 mL
   Urine:
                                                                    245 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,045 mL
                                                                  1,189 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Vent Dependant
   PIP: 19 cmH2O
   Plateau: 18 cmH2O
   SpO2: 98%
   ABG: ///28/
   Ve: 12.3 L/min
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed, trach site clean without evidence of bleeding
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   207 K/uL
   91 mg/dL
   0.1 mg/dL
   28 mEq/L
   3.6 mEq/L
   17 mg/dL
   109 mEq/L
   143 mEq/L
   26.8 %
   9.1 K/uL
        [image002.jpg]
                             [**2135-12-9**]  09:54 PM
                             [**2135-12-10**]  04:29 AM
                             [**2135-12-10**]  06:43 PM
                             [**2135-12-11**]  12:14 AM
                             [**2135-12-11**]  04:33 AM
                             [**2135-12-11**]  08:46 PM
                             [**2135-12-12**]  01:07 AM
                             [**2135-12-12**]  05:30 AM
                             [**2135-12-12**]  05:04 PM
                             [**2135-12-13**]  04:42 AM
   WBC
   12.9
   13.0
   10.0
   9.1
   Hct
   30.2
   29.8
   25.3
   25.9
   23.8
   29.5
   28.7
   27.4
   29.7
   26.8
   Plt
   287
   237
   212
   207
   Cr
   0.1
   0.1
   0.1
   0.1
   Glucose
   81
   106
   98
   91
   Other labs: PT / PTT / INR:14.8/30.6/1.3, Differential-Neuts:85.2 %,
   Lymph:6.9 %, Mono:5.5 %, Eos:2.1 %, LDH:97 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   Plans as per resident note, would emphasize:
   Advanced ALS, admitted with bleeding from trach site.
   Resp Failure - [**2-5**] ALS, continue AC with larger tidal volumes (now
   ~7-8cc/kg) could increase further for comfort. Had a sensation of air
   hunger on 6cc/kg.
   Bleeding - s/p cautery, now controlled. No bleeding x 24 hrs
   Okay to return to rehab today.
   ICU Care
   Nutrition:
   Comments: Tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2135-12-9**] 04:22 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 30 minutes
   Patient is critically ill